US09108977B2
To a suspension of 5.13 g of 1-[8-hydroxy-5-methyl-3-(trifluoroacetyl)-2,3,4,5-tetrahydro-1H-3-benzazepine-7-yl]ethanone in 50 ml of MeOH was added 50 ml of a 1 M aqueous sodium hydroxide solution, followed by stirring at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure to a half of the amount, and to the residue were added 50 ml of dioxane and 4.27 g of di-t-butyl dicarbonate, followed by stirring at room temperature for 30 minutes. The reaction mixture was neutralized by the addition of 1 M hydrochloric acid and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 4.385 g of t-butyl 8-acetyl-7-hydroxy-1-methyl-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate as a yellow viscous substance.

reactant | 1-[8-hydroxy-5-methyl-3-(trifluoroacetyl)-2,3,4,5-tetrahydro-1H-3-benzazepine-7-yl]ethanone | 5.13 g | OC=1C(=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)C1)C(C)=O | C15H16F3NO3
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | MeOH | 50 ml | CO | CH4O
product | t-butyl 8-acetyl-7-hydroxy-1-methyl-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 4.385 g | C(C)(=O)C=1C(=CC2=C(C(CN(CC2)C(=O)OC(C)(C)C)C)C1)O | C18H25NO4
